US06500835B2
960 mg (3.00 mmol) of 3-benzyloxycarbonylamino-4-methylbenzenesulfonamide and 1.14 g (3.00 mmol) of benzyl 4-chloro-2-N-phenoxycarbonylanthranilate were treated in the same way as in Preparation Example 8 to obtain 1.14 g (yield 62% of benzyl 2-{[(3-benzyloxycarbonylamino-4-methylbenzenesulfonylamino)carbonyl]amino}-4-chlorobenzoate. Properties: colorless amorphous, PMR (δ ppm, DMSO-d6): 2.30 (3H, s), 5.17 (2H, s), 5.36 (2H, s), 7.20 (1H, dd), 7.33-7.48 (11H, m), 7.63 (1H, d), 7.97 (1H, d), 8.11 (1H, s), 8.25 (1H, s), 9.27 (1H, s), 10.30 (1H, s), 12.20 (1H, br).

reactant | 3-benzyloxycarbonylamino-4-methylbenzenesulfonamide | 3.00 mmol, 960 mg | C(C1=CC=CC=C1)OC(=O)NC=1C=C(C=CC1C)S(=O)(=O)N | C15H16N2O4S
reactant | benzyl 4-chloro-2-N-phenoxycarbonylanthranilate | 3.00 mmol, 1.14 g | ClC=1C=C(C(C(=O)OCC2=CC=CC=C2)=CC1)NC(=O)OC1=CC=CC=C1 | C21H16ClNO4
product | benzyl 2-{[(3-benzyloxycarbonylamino-4-methylbenzenesulfonylamino)carbonyl]amino}-4-chlorobenzoate | yield 62% | C(C1=CC=CC=C1)OC(=O)NC=1C=C(C=CC1C)S(=O)(=O)NC(=O)NC1=C(C(=O)OCC2=CC=CC=C2)C=CC(=C1)Cl | C30H26ClN3O7S
